US07687515B2
A: 6-Chloro-4-ethylamino-3-nitro-pyridine-2-carbonitrile
At room temperature, potassium carbonate (3.06 g) was added by portions to a solution of 4-amino-6-chloro-3-nitro-pyridine-2-carbonitrile (4.0 g) in DMF (60 mL). A solution of ethyl iodide (3.46 g) in DMF (20 mL) was added dropwise to the mixture, then stirred for 24 h at room temperature and concentrated under reduced pressure. The residue was partitioned between water (50 ml) and ethyl acetate (100 ml). The aqueous layer was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with brine (3×50 ml), then concentrated under reduced pressure. The residue was chromatographed over silica gel (eluent: dichloromethane) to afford the title compound (2.94 g) as yellow crystals (mp=120° C.). 1H NMR (DMSO-d6) δ: 8.67 (br. s, 1H); 7.46 (s, 1H); 3.51 (q, J=8 Hz, 2H); 1.21 (t, J=8 Hz, 3H). MS m/z: 227/229 (M+1).

reactant | potassium carbonate | 3.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-amino-6-chloro-3-nitro-pyridine-2-carbonitrile | 4.0 g | NC1=C(C(=NC(=C1)Cl)C#N)[N+](=O)[O-] | C6H3ClN4O2
reactant | ethyl iodide | 3.46 g | C(C)I | C2H5I
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-4-ethylamino-3-nitro-pyridine-2-carbonitrile | 2.94 g | ClC1=CC(=C(C(=N1)C#N)[N+](=O)[O-])NCC | C8H7ClN4O2
